US07250442B2
3-(4-Amino-phenyl)-1-(2-chloro-benzyl)-3-(4-methoxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one LY
Dissolve nickelous chloride (36 mg, 0.15 mmol) in methanol (3 mL). Add sodium borohydride (17 mg) followed 1-(2-chloro-benzyl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-3-(4-nitro-phenyl)-1,3-dihydro-indol-2-one (152 mg, 0.3 mmol) in THF (3 mL). Add additional sodium borohydride and stir at room temperature for 30 min. Concentrate to dryness and partition the resulting residue in water/ethyl acetate. Separate and extract aqueous with ethyl acetate (2×). Wash combined organic portions with brine and then dry (MgSO4), filter and concentrate in vacuo to give 145 mg of residue. Purify by flash chromatography (gradient of 10% EtOAc/hexanes to 50% EtOAc/hexanes) to give 97 mg (67%) of the title compound as a white foam. MS (ES): m/z=483 (M+1); 1H NMR(DMSO-d6): δ9.99 (s, 1H), 7.53 (m, 3H), 7.36-7.24 (m, 4H), 7.10 (t, J=8 Hz, 1H), 6.95 (m, 2H), 6.85 (m, 4H), 6.52 (d, J=8.5 Hz), 5.19 (bs, 2H), 5.06 (s, 2H) 3.65 (s, 3H), 2.16 (s, 6H).

reactant | sodium borohydride | 17 mg | [BH4-].[Na+]
reactant | 1-(2-chloro-benzyl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-3-(4-nitro-phenyl)-1,3-dihydro-indol-2-one | 0.3 mmol, 152 mg | ClC1=C(CN2C(C(C3=CC=CC=C23)(C2=CC=C(C=C2)[N+](=O)[O-])C2=CC(=C(C(=C2)C)O)C)=O)C=CC=C1 | C29H23ClN2O4
reactant | methanol | 3 mL | CO | CH4O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 3-(4-Amino-phenyl)-1-(2-chloro-benzyl)-3-(4-methoxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one | 145 mg | NC1=CC=C(C=C1)C1(C(N(C2=CC=CC=C12)CC1=C(C=CC=C1)Cl)=O)C1=CC(=C(C(=C1)C)OC)C | C30H27ClN2O2
